US06967196B1
(4R)-4-[N-[5-chloro-2-fluorophenyl][(4-chlorophenyl)sulfonyl]amino]pentylsulfonyl chloride was prepared analogous to (4R)-4-[N-[2,5-dichlororophenyl][(4-chlorophenyl)sulfonyl]amino]pentyl-sulfonyl chloride by reacting (4R)-4-[N-[5-chloro-2-fluorophenyl][(4-chlorophenyl)sulfonyl]amino]-pentylsulfonic acid with phosphorus pentachloride: Yield=81%; MS (ESI) 489 (+1).

reactant | (4R)-4-[N-[5-chloro-2-fluorophenyl][(4-chlorophenyl)sulfonyl]amino]-pentylsulfonic acid | ClC=1C=CC(=C(C1)N([C@@H](CCCS(=O)(=O)O)C)S(=O)(=O)C1=CC=C(C=C1)Cl)F | C17H18Cl2FNO5S2
reactant | phosphorus pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
product | (4R)-4-[N-[5-chloro-2-fluorophenyl][(4-chlorophenyl)sulfonyl]amino]pentylsulfonyl chloride | Yield=81% | ClC=1C=CC(=C(C1)N([C@@H](CCCS(=O)(=O)Cl)C)S(=O)(=O)C1=CC=C(C=C1)Cl)F | C17H17Cl3FNO4S2
